US08877780B2
A stirred mixture of 4-ethylsulfonylbenzoic acid (0.43 g, 2.00 mmol) and CDI (0.34 g, 2.10 mmol) in N,N-dimethylformamide (20 mL) was heated to 40° C. under nitrogen. After 2 h, 5-aminomethyl-2-(3-methyl-2,6-dioxo-piperidin-3-yl)-isoindole-1,3-dione hydrochloride (0.68 g, 2.00 mmol) was added and the mixture was heated at 40° C. for 2 h. The mixture was cooled to rt and EtOAc (75 mL) was added. The organic layer was washed with sat. aq. NaHCO3 (3×100 mL) then concentrated in vacuo. The crude residue was purified by column chromatography (EtOAc/hexanes, gradient). The product fractions were combined and concentrated to give 5-methylsulfanyl-pyridine-2-carboxylic acid 4-ethanesulfonyl-N-[2-(3-methyl-2,6-dioxo-piperidin-3-yl)-1,3-dioxo-2,3-dihydro-1H-isoindol-5-ylmethyl]-benzamide as a white solid (0.31 g, 32% yield): HPLC: Waters Symmetry C18, 5 μm, 3.9×150 mm, 1 mL/min, 240 nm, 40/60 CH3CN/0.1% H3PO4, 2.40 min (98.51%); mp: 178-180° C.; 1H NMR (DMSO-d6) δ 1.10 (t, J=7.2, 7.4 Hz, 3H), 1.89 (s, 3H), 2.00-2.15 (m, 1H), 2.54-2.77 (m, 3H), 3.35 (q, J=7.4 Hz, 2H), 4.66 (d, J=5.9 Hz, 2H), 7.73-7.86 (m, 3H), 7.97-8.07 (m, 2H), 8.07-8.21 (m, 2H), 9.48 (t, J=5.9 Hz, 1H), 11.01 (s, 1H); 13C NMR (DMSO-d6) δ 7.06, 21.00, 28.57, 29.09, 42.75, 49.04, 58.78, 121.70, 123.22, 128.02, 128.29, 129.71, 131.41, 133.47, 138.51, 140.85, 146.97, 165.21, 167.72, 167.85, 172.13, 172.19; LCMS: MH=498; Anal Calcd for C24H23N3O7S+0.15 CH2Cl2: C, 56.85; H, 4.60; N, 8.23. Found: C, 57.11; H, 4.87; N, 7.85.

reactant | 4-ethylsulfonylbenzoic acid | 2.00 mmol, 0.43 g | C(C)S(=O)(=O)C1=CC=C(C(=O)O)C=C1 | C9H10O4S
reactant | CDI | 2.10 mmol, 0.34 g | C1=CN(C=N1)C(=O)N2C=CN=C2 | C7H6N4O
reactant | 5-aminomethyl-2-(3-methyl-2,6-dioxo-piperidin-3-yl)-isoindole-1,3-dione hydrochloride | 2.00 mmol, 0.68 g | Cl.NCC=1C=C2C(N(C(C2=CC1)=O)C1(C(NC(CC1)=O)=O)C)=O
reactant | EtOAc | 75 mL | CCOC(=O)C | C4H8O2
solvent | N,N-dimethylformamide | 20 mL | CN(C=O)C | C3H7NO
product | 5-methylsulfanyl-pyridine-2-carboxylic acid 4-ethanesulfonyl-N-[2-(3-methyl-2,6-dioxo-piperidin-3-yl)-1,3-dioxo-2,3-dihydro-1H-isoindol-5-ylmethyl]-benzamide | 0.31 g, 32% yield | C(C)S(=O)(=O)C1=CC=C(C(=O)NCC=2C=C3C(N(C(C3=CC2)=O)C2(C(NC(CC2)=O)=O)C)=O)C=C1.CSC=1C=CC(=NC1)C(=O)O | InChI=1S/C24H23N3O7S.C7H7NO2S/c1-3-35(33,34)16-7-5-15(6-8-16)20(29)25-13-14-4-9-17-18(12-14)22(31)27(21(17)30)24(2)11-10-19(28)26-23(24)32;1-11-5-2-3-6(7(9)10)8-4-5/h4-9,12H,3,10-11,13H2,1-2H3,(H,25,29)(H,26,28,32);2-4H,1H3,(H,9,10)
